US07495007B2
Preparation of intermediate E/Z-3-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2,2-dimethyl-propionic acid methyl ester
3-(4-Chloro-2-formyl-phenoxy)-2,2-dimethyl-propionic acid methyl ester (6.7 g, 25 mmol) and 6-Chlorooxindole (4.35 g, 25 mmol) were mixed in anhydrous methanol (20 mL). Then pyrrolidine (2 mL, 25 mmol) was added slowly at r.t. The mixture was heated at 70° C. for 3 h and cooled to room temperature. The precipitate was collected by filtration to give title compound as a yellow solid (Yield: 7 g, 67%).

reactant | 3-(4-Chloro-2-formyl-phenoxy)-2,2-dimethyl-propionic acid methyl ester | 25 mmol, 6.7 g | COC(C(COC1=C(C=C(C=C1)Cl)C=O)(C)C)=O | C13H15ClO4
reactant | 6-Chlorooxindole | 25 mmol, 4.35 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 25 mmol, 2 mL | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-3-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2,2-dimethyl-propionic acid methyl ester | Yield: 7 g, 67% | COC(C(COC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)(C)C)=O | C21H19Cl2NO4
